US04892885
An 8.77 g portion of 1-(phenylmethyl)piperidine was mixed with 200 ml of ether under argon. A 27 ml portion of 2.6N butyl lithium in hexane was added, this mixture was allowed to stand one hour, then a solution of 12.6 ml of diphenylphosphine chloride in 50 ml of ether was added dropwise. This mixture was stirred 48 hours, then the ether layer was separated, washed with water, then extracted twice with 100 ml of water containing 8 ml of hydrochloric acid followed by water. The aqueous extracts were combined, basified with 12 ml of 10N sodium hydroxide and extracted twice with ether. The ether extracts were combined and concentrated, giving 15.5 g of diphenyl[2-(1-piperidinylmethyl)phenyl]phosphine as an oil.

reactant | 1-(phenylmethyl)piperidine | C1(=CC=CC=C1)CN1CCCCC1 | C12H17N
reactant | butyl lithium | 2.6N | C(CCC)[Li]
reactant | diphenylphosphine chloride | 12.6 ml | [Cl-].C1(=CC=CC=C1)PC1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | diphenyl[2-(1-piperidinylmethyl)phenyl]phosphine | 15.5 g | C1(=CC=CC=C1)P(C1=C(C=CC=C1)CN1CCCCC1)C1=CC=CC=C1 | C24H26NP
